data/mechanism_extracts/Angew/10.1002_anie.201510418.json
{"doi": "10.1002_anie.201510418", "journal": "Angew", "is_review": false, "rxn_class_summary": "Electrocatalytic intramolecular olefin hydroamidation of N-aryl amides via ferrocene-mediated anodic generation of amidyl radicals", "mechanism_family": ["mediator_anodic", "electrocatalysis_outer_sphere", "paired_electrolysis"], "electrochemical_role": "Anodic oxidation of ferrocene (Fc) to ferrocenium (Fc+), which then oxidizes the deprotonated anilide (amide conjugate base) by outer-sphere SET to give an amidyl radical; cathodic reduction of MeOH generates H2 and MeO- which deprotonates the N-H amide", "key_intermediates": [{"name": "ferrocenium cation (Fc+)", "smiles": null, "role": "reactive"}, {"name": "anilide conjugate base (deprotonated N-aryl amide, I)", "smiles": null, "role": "reactive"}, {"name": "N-centered amidyl radical (II)", "smiles": null, "role": "reactive"}, {"name": "carbon-centered radical from 5-exo cyclization onto tethered olefin (III)", "smiles": null, "role": "transient"}, {"name": "methoxide (MeO-)", "smiles": "[O-]C", "role": "reactive"}], "electron_flow": "Anode oxidizes Fc to Fc+ while cathode reduces MeOH to H2 and MeO-; MeO- deprotonates the N-H anilide, and Fc+ then SET-oxidizes the resulting amidate to an amidyl radical (regenerating Fc). The amidyl radical cyclizes onto the tethered olefin, and the resulting C-radical abstracts H from 1,4-cyclohexadiene to give the hydroamidation product.", "rate_determining_step": "Single-electron transfer from anilide conjugate base to Fc+ (facilitated by less polar mixed THF/MeOH solvent that destabilizes ionic species)", "probe_reagents": [{"name": "cyclic voltammetry of 1a with Fc", "smiles": null, "purpose": "redox_probe", "observation": "In basic MeOH, Ep/2(1a)=+0.83 V vs SCE >> Ep/2(Fc)=+0.37 V, no electron transfer observed; in THF/MeOH (5:1) the potentials converge to within 60 mV (1a +0.61 V; Fc +0.55 V) and the Fc back-scan disappears, indicating efficient SET"}, {"name": "cyclopropyl radical clock substrate 17", "smiles": null, "purpose": "radical_clock", "observation": "Electrolysis gave ring-opened product 18 (67%), supporting a radical (amidyl) intermediate"}, {"name": "1,4-cyclohexadiene (1,4-CHD)", "smiles": "C1C=CCC=C1", "purpose": "intermediate_trap", "observation": "Serves as H-atom donor to the cyclized C-radical; omission with substrate 15 led to oxidative termination giving indoline 16"}, {"name": "Na2CO3 (base substitution control)", "smiles": null, "purpose": "other", "observation": "No electron transfer detected when Na2CO3 was used instead of electrogenerated MeO-, indicating in situ MeO- is critical"}], "evidence_types_used": ["radical_clock", "cyclic_voltammetry", "intermediate_trap_other"], "evidence_strength": "medium", "notes": "Solvent polarity is a key design element: switching from MeOH to THF/MeOH lowers substrate oxidation potential and raises Fc oxidation potential, enabling outer-sphere SET. Chemoselectivity (Scheme 2) shows oxidation occurs only on the more electron-rich PMP-carbamate, consistent with an outer-sphere SET mediator mechanism rather than direct electrolysis. With substrates lacking H-atom donor, an oxidative cyclization (C-radical further oxidized) pathway operates instead of hydroamidation."}
